US05116862
Sodium (1.2 g) was dissolved in dry ethanol (200 ml). Diethyl malonate (7.8 ml) was added and the mixture was stirred for 30 minutes and hex-5-ynyl methanesulphonate (9.0 g) was added. The mixture was stirred and refluxed for 1 hour. The mixture was cooled and the volume was reduced in vacuo. The mixture was poured into water and the aqueous mixture was extracted with diethyl ether. The ethereal extracts were washed with water and dried over anhydrous magnesium sulphate. The solvent was removed in vacuo. The crude ester was added to a solution of aqueous sodium hydroxide solution (100 ml of 15% solution) and methanol (50 ml) and the mixture was stirred at 20° for 24 hours. The mixture was extracted with diethyl ether. The aqueous alkaline phase was acidified with hydrochloric acid and the mixture was extracted with diethyl ether. The ethereal extracts were dried over anhydrous magnesium sulphate. The solvent was removed in vacuo. 2-(Hex-5-ynyl)malonic acid was obtained as a colourless solid (4.5 g) and was used without further purification.

reactant | Sodium | 1.2 g | [Na] | Na
reactant | Diethyl malonate | 7.8 ml | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | hex-5-ynyl methanesulphonate | 9.0 g | CS(=O)(=O)OCCCCC#C | C7H12O3S
reactant | water | O | H2O
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | 2-(Hex-5-ynyl)malonic acid | C(CCCC#C)C(C(=O)O)C(=O)O | C9H12O4
